US07220856B2
Preparation of 7-Chloro-4-[4-(cyanimino(4-fluorobenzylamino)methyl)piperazin-1-yl]quinoline
7-Chloro-4-[4-(cyanimino(phenoxy)methyl)piperazin-1-yl]quinoline (107 mg, 0.27 mmol) and 4-fluorobenzylamine (62 μL, 0.54 mmol) are heated in pyridine (10 mL) for 3 h at reflux. The solvent is removed, and the residue purified by column chromatography with CH2Cl2-MeOH giving the title product as a colorless solid.

reactant | 7-Chloro-4-[4-(cyanimino(phenoxy)methyl)piperazin-1-yl]quinoline | 0.27 mmol, 107 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(OC1=CC=CC=C1)=NC#N | C21H18ClN5O
reactant | 4-fluorobenzylamine | 0.54 mmol, 62 μL | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 7-Chloro-4-[4-(cyanimino(4-fluorobenzylamino)methyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(NCC1=CC=C(C=C1)F)=NC#N | C22H20ClFN6
